US08431608B2
Sodium hydride (5.0 g, 0.21 mol) in N,N-Dimethylformamide (370 mL) was treated portion wise with N-(5-Fluoro-pyridin-2-yl)-4-methyl-benzenesulfonamide (compound a, 50 g, 0.2 mol). After stirring for 20 minutes, iodoacetamide (30 g, 0.2 mol) was added in one portion. The reaction stirred overnight at room temperature. The solvent was removed to give a brown solid. The crude material was diluted with 500 ml of ethyl acetate and 100 mL of water and stirred for 2 hours. The solid was collected by filtration and dried to afford 36 g of 2-(5-fluoro-2-(tosylimino)pyridin-1(2H)-yl)acetamide. Rf 0.37, neat ethyl acetate MS m/z 324 (M+H).

reactant | Sodium hydride | 0.21 mol, 5.0 g | [H-].[Na+]
reactant | N-(5-Fluoro-pyridin-2-yl)-4-methyl-benzenesulfonamide | FC=1C=CC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C | C12H11FN2O2S
reactant | iodoacetamide | 0.2 mol, 30 g | ICC(=O)N | C2H4INO
solvent | N,N-Dimethylformamide | 370 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-(5-fluoro-2-(tosylimino)pyridin-1(2H)-yl)acetamide | 36 g | FC=1C=CC(N(C1)CC(=O)N)=NS(=O)(=O)C1=CC=C(C)C=C1 | C14H14FN3O3S
